US07964607B2
(a) 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-(2,2,2-trifluoroethyl)hydrazine provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.60 (s, 1H), 4.59 (m, 2H), 4.40 (brs, 2H).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-(2,2,2-trifluoroethyl)hydrazine | FC(CNN)(F)F | C2H5F3N2
product | 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1CC(F)(F)F)C#N | C6H5F3N4
